US05547919
Trimethyl ethane-1,1,2-tricarboxylate (204 g, 1 mol) and acetamidine hydrochloride (95 g, mol) are added to a solution of sodium methylate (108 g, 2 mol) in methanol (600 ml) with stirring. The mixture is stirred for 16 hours at room temperature. Acidification with concentrated hydrochloric acid, filtration, washing with cold water and drying gives the methyl 4,6-dihydroxy-2-methyl-pyrimidin-5-yl-acetate (or tautomeric forms thereof) as a colorless solid (210 g), m.p.>200° C.

reactant | Trimethyl ethane-1,1,2-tricarboxylate | 1 mol, 204 g | C(CC(=O)OC)(C(=O)OC)C(=O)OC | C8H12O6
reactant | acetamidine hydrochloride | 95 g | Cl.C(C)(=N)N
reactant | sodium methylate | 2 mol, 108 g | C[O-].[Na+]
solvent | methanol | 600 ml | CO | CH4O
product | methyl 4,6-dihydroxy-2-methyl-pyrimidin-5-yl-acetate | OC1=NC(=NC(=C1CC(=O)OC)O)C | C8H10N2O4
